US05455253
4-(3-Fluorophenyl)-2-methyl-4,6,7,8-tetrahydro-5(1H)-quinolone.
A mixture of 3-fluorobenzaldehyde (7.0 g), 1,3-cyclohexanedione (6.61 g) and ethanol (150 mL) was heated at 70° C. overnight and then cooled to room temperature. Acetone (3.93 g), ammonium acetate (6.52 g) and a solution of pyrrolidine acetate (9.83 g) in ethanol (10 mL) was added and heated at 70° C. for three hours and then cooled to room temperature. The solvent was removed and the residue was partitioned between water and ethyl acetate. The organic layer was dried, filtered, and concentrated in vacuo to obtain an amber oil. Chromatography (methylene chloride/ethyl acetate; 9.0/1.0) and recrystallization from ethanol provided the title compound (0.12 g) as a white solid, mp 216°-218° C.; NMR: 1.73 (s,3, CH3), 1.78-1.90 (m,2, CH2), 2.14-2.19 (m,2, CH2), 2.41-2.46 (m,2, CH2), 4.42 (d,1, J=4.8 CH), 4.61 (d, 1, J=4.8, CH) 6.86-7.00 (m,3, Ar), 7.25 (m,1, Ar), 8.49 (s,1, NH); (CI, CH4) MS: m/z=258(M+1). Analysis for C16H16FNO: Calculated C, 74.69; H, 6.27; N, 5.44; Found: C, 74.39; H, 6.30; N, 5.35.

reactant | 3-fluorobenzaldehyde | 7.0 g | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | 1,3-cyclohexanedione | 6.61 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | ammonium acetate | 6.52 g | C(C)(=O)[O-].[NH4+]
reactant | pyrrolidine acetate | 9.83 g | C(C)(=O)O.N1CCCC1
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | Acetone | 3.93 g | CC(=O)C | C3H6O
product | 4-(3-Fluorophenyl)-2-methyl-4,6,7,8-tetrahydro-5(1H)-quinolone | 0.12 g | FC=1C=C(C=CC1)C1C=C(NC=2CCCC(C12)=O)C | C16H16FNO
